US05663053
2-Benzyl-4,5-diphenylimidazole (3.3 g) (Weiss, M, J. ,Am. Chem. Soc., 1952, 74, 5193-5) was reacted with ethyl 8-bromooctanoate as in Example 9. Colnmn chromatography on silica gel eluted with a dichloromethane:ethanol gradient followed by distillation at 200° C./0.1 torr to remove volatile impurities gave a yellow oil. Recrystallisation from hexane gave 2-benzyl-1-(7-ethoxycarbonylheptyl)-4,5-diphenylimidazole (2.69 g, 52.6%) as a white solid, m.p. 82°-3°. Found: C, 80.35; H, 7.58; N, 6.08%; C32H36N2O2 requires: C, 79.96; H, 7.55; N. 5.83%.

reactant | 2-Benzyl-4,5-diphenylimidazole | 3.3 g | C(C1=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2
reactant | ethyl 8-bromooctanoate | BrCCCCCCCC(=O)OCC | C10H19BrO2
product | 2-benzyl-1-(7-ethoxycarbonylheptyl)-4,5-diphenylimidazole | 2.69 g, 52.6% | C(C1=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCC(=O)OCC | C32H36N2O2
